US06914074B2
1-Chloro-6-(4-methoxy-2-methylphenyl)-2-naphthol
The title compound was prepared by reacting 6-(4-methoxy-2-methylphenyl)-2-naphthol (800 mg, 3.03 mmol) and NCS (485 mg, 3.61 mmol) in THF (30 mL) according to method A to yield 640 mg (71%) of yellow solid: 1H NMR (DMDO-d6): δ 2.26 (3H, s), 3.79 (3H, s), 6.86 (1H, dd, J=8.36 Hz, J=2.63 Hz), 6.91 (1H, d, J=2.51 Hz), 7.22 (1H, d, J=8.34 Hz), 7.31 (1H, d, J=8.89 Hz), 7.56 (1H, dd, J=8.71 Hz, J=1.71 Hz), 7.79-7.83(2H, m), 8.04 (1H, J=8.91 Hz), 10.46 (1H, s); 13C NMR (DMDO-d6): δ 20.54, 55.07, 111.48, 112.21, 115.71, 118.73, 121.94, 127.92, 128.15, 128.35, 129.34, 130.12. 130.87, 133.26, 136.14, 136.36, 150.99, 158.49; MS (ESI) m/z297/299 (M−H)−.

reactant | 6-(4-methoxy-2-methylphenyl)-2-naphthol | 3.03 mmol, 800 mg | COC1=CC(=C(C=C1)C=1C=C2C=CC(=CC2=CC1)O)C | C18H16O2
reactant | NCS | 3.61 mmol, 485 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-Chloro-6-(4-methoxy-2-methylphenyl)-2-naphthol | ClC1=C(C=CC2=CC(=CC=C12)C1=C(C=C(C=C1)OC)C)O | C18H15ClO2
